US04757051
A mixture of 340 g (2 moles) of 2-tert-butyl-4-methylcyclohexanol and 650 g (5 moles) of propionic anhydride was heated to an internal temperature of 162°-185° C., similarly to Example 2, the resulting propionic acid being distilled off simultaneously in the course of about 3 hours. The mixture was worked up in a similar manner, and the subsequent distillation under reduced pressure gave 411 g (90% yield) of 2-tert-butyl-4-methylcyclohexyl propionate of boiling point 37° C./0.001 mbar and refractive index nD25 1.4512. The propionate too constituted a diastereomer mixture and had an interesting fruity note reminiscent of apricots and plums.

reactant | 2-tert-butyl-4-methylcyclohexanol | 2 moles, 340 g | C(C)(C)(C)C1C(CCC(C1)C)O | C11H22O
reactant | propionic anhydride | 5 moles, 650 g | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-tert-butyl-4-methylcyclohexyl propionate | 411 g, 90% yield | C(CC)(=O)OC1C(CC(CC1)C)C(C)(C)C | C14H26O2
